US08664241B2
To a solution of 3-bromo-5-fluorobenzaldehyde (LXXIX) (2.03 g, 10.01 mmol) in DCE (50 mL) was added methanesulfonamide (1.43 g, 15.01 mmol) and TEA (2.79 mL, 20.02 mmol). NaBH(OAc)3 (3.00 g, 14.13 mmol) was added and stirred at room temperature overnight. The solvent was removed under vacuum and the residue was partitioned between EtOAc and water. The organic layer separated and washed with water, brine, dried over MgSO4 and evaporated under vacuum to produce N-(3-bromo-5-fluorobenzyl)methanesulfonamide (LXXX) as a colorless oil (2.653 g, 9.40 mmol, 93.9% yield). ESIMS found C8H9BrFNO2S m/z 282.0 (M+H).

reactant | 3-bromo-5-fluorobenzaldehyde | 10.01 mmol, 2.03 g | BrC=1C=C(C=O)C=C(C1)F | C7H4BrFO
reactant | methanesulfonamide | 15.01 mmol, 1.43 g | CS(=O)(=O)N | CH5NO2S
reactant | NaBH(OAc)3 | 14.13 mmol, 3.00 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | N-(3-bromo-5-fluorobenzyl)methanesulfonamide | 9.40 mmol, 2.653 g, 93.9% yield | BrC=1C=C(CNS(=O)(=O)C)C=C(C1)F | C8H9BrFNO2S
